US04061656
Glyoxalic acid butyl ester
1775 g. of lead tetraacetate (90%) are gradually introduced within 30 minutes at 25°-30° C. into a solution of 1000 g. of L(+)-tartaric acid dibutyl ester in 3850 ml. of benzene. The reaction mixture is subsequently stirred for 1 hour at room temperature. The sediment is filtered off and extracted with 500 ml. of benzene. The benzene extract is evaporated under reduced pressure. The remaining glyoxalic acid butyl ester boils, after rectification, at 50°-65° C./12 mm Hg.

reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | L(+)-tartaric acid dibutyl ester | C(CCC)OC([C@H](O)[C@@H](O)C(=O)OCCCC)=O | C12H22O6
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Glyoxalic acid butyl ester | C(CCC)OC(C=O)=O | C6H10O3
